US08048897B2
(1) Synthesis of 2-(3-Trifluoromethoxybenzyl)phenol
In a nitrogen stream, an n-butyllithium hexane solution (2.44 M, 4.3 mL) was added dropwise to a solution of 1-benzyloxy-2-bromobenzene (2.5 g, 9.5 mmol) in THF (95 mL) at −78° C. and the mixture was stirred at the same temperature for 30 minutes. To this mixture, a solution of 3-trifluoromethoxybenzaldehyde (1.5 g, 7.9 mmol) in THF (32 mL) was added dropwise at −78° C. The reaction mixture was stirred at the same temperature for two hours and furthermore at 0° C. for one hour, and then water was added thereto and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated sodium chloride aqueous solution and dried (anhydrous magnesium sulfate), and then the solvent was distilled under reduced pressure. The obtained residue was treated by silica gel column chromatography [developing solution=ethyl acetate:n-hexane (1:5)]. The obtained crude product was dissolved in methanol (20 mL) and a 20% palladium hydroxide catalyst (200 mg) was added and furthermore 2N—HCl (0.187 mL) was added thereto. The mixture was stirred under a hydrogen atmosphere for 13 hours. Potassium carbonate (850 mg) was added to the reaction mixture and the mixture was stirred at room temperature for 30 minutes, and then the catalyst was filtered off. The solvent was distilled under reduced pressure and the obtained residue was purified by silica gel column chromatography [developing solution=ethyl acetate:n-hexane (1:5)] to obtain the title compound (1.40 g, 99%).

reactant | n-butyllithium hexane | 2.44 M, 4.3 mL | CCCCCC.C(CCC)[Li]
reactant | 1-benzyloxy-2-bromobenzene | 9.5 mmol, 2.5 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)Br | C13H11BrO
reactant | 3-trifluoromethoxybenzaldehyde | 7.9 mmol, 1.5 g | FC(OC=1C=C(C=O)C=CC1)(F)F | C8H5F3O2
reactant | HCl | 0.187 mL | Cl | ClH
reactant | Potassium carbonate | 850 mg | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 95 mL | C1CCOC1 | C4H8O
solvent | THF | 32 mL | C1CCOC1 | C4H8O
solvent | methanol | 20 mL | CO | CH4O
catalyst | palladium hydroxide | 200 mg | [OH-].[Pd+2].[OH-]
solvent | water | O | H2O
product | 2-(3-Trifluoromethoxybenzyl)phenol | 1.40 g, 99% | FC(OC=1C=C(CC2=C(C=CC=C2)O)C=CC1)(F)F | C14H11F3O2
